datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C(CCc1ccc([N+](=O)[O-])cc1)[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C(CCc1ccc([N+](=O)[O-])cc1)[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc2c(c1)nn[n:21]2[H:20].OCc1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1>>Cc1ccc2c(c1)nn[n-:21]2.OCc1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"C1=C(c2nc3ccccc3s2)C2CC[N+:21]1([H:20])CC2.CC1=C(CC(C)[NH2+]CC(O)c2ccc([NH2:10])cc2)CCC1(C)C>>C1=C(c2nc3ccccc3s2)C2CC[N:21]1CC2.CC1=C(CC(C)[NH2+]CC(O)c2ccc([NH2+:10][H:20])cc2)CCC1(C)C 10=20;20,21=21",
"N#CC(C#N)=[N:10]Nc1ccc(C(=O)CCl)cc1.c1ccc(CO[n+]2ccc([O:21][H:20])cc2)cc1>>N#CC(C#N)=[N+:10](Nc1ccc(C(=O)CCl)cc1)[H:20].c1ccc(CO[n+]2ccc([O-:21])cc2)cc1 10=20;20,21=21",
"CC1=CC=C([CH:21](C(=O)C2=C[N+](C)=CC=C2)[H:20])C=C1.CC[O-:10]>>CC1=CC=C([CH-:21]C(=O)C2=C[N+](C)=CC=C2)C=C1.CC[O:10][H:20] 10=20;20,21=21",
"CCOC(=O)C(=N[O:21][H:20])C(=O)OCC.c1ccc2nc[n:10]cc2c1>>CCOC(=O)C(=N[O-:21])C(=O)OCC.c1ccc2nc[n+:10]([H:20])cc2c1 10=20;20,21=21",
"Brc1ccc(CC[NH2:10])cc1.O=C1N=C([O-])c2ncn([C@H]3O[C@@H](CO)[C@H](O)[C@@H]3O)c2[N:21]1[H:20]>>Brc1ccc(CC[NH2+:10][H:20])cc1.O=C1N=C([O-])c2ncn([C@H]3O[C@@H](CO)[C@H](O)[C@@H]3O)c2[N-:21]1 10=20;20,21=21",
"C=Cc1ccc(C)[n+:21]([H:20])c1.Cc1cc(N[NH2:10])nc2ccccc12>>C=Cc1ccc(C)[n:21]c1.Cc1cc(N[NH2+:10][H:20])nc2ccccc12 10=20;20,21=21",
"Cn1cc(Cl)c[n+:21]1[H:20].Nc1ncnc2c1cn[n-:10]2>>Cn1cc(Cl)c[n:21]1.Nc1ncnc2c1cn[n:10]2[H:20] 10=20;20,21=21",
"C1C[NH2+]CC[NH:10]CCN1.C=CCC(=O)[O:21][H:20]>>C1C[NH2+]CC[NH+:10]([H:20])CCN1.C=CCC(=O)[O-:21] 10=20;20,21=21",
"COC1CC2CC[N:10]1CC2.CSc1n(C)c2ncncc2[n+:21]1[H:20]>>COC1CC2CC[N+:10]1([H:20])CC2.CSc1n(C)c2ncncc2[n:21]1 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@H]2O)[NH:10]CC[C@]314.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@H]2O)[NH+:10]([H:20])CC[C@]314.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCO[C@H]1C[C@@H]1C(=O)[O:21][H:20].S=C(c1cccc(Br)c1)[N-:10]c1ccccc1>>CCO[C@H]1C[C@@H]1C(=O)[O-:21].S=C(c1cccc(Br)c1)[N:10](c1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=P([O-])(c1cn2c([nH+]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO)[O-:10].O=[N+]([O-])c1ccccc1-c1nnn[n:21]1[H:20]>>O=P([O-])(c1cn2c([nH+]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO)[O:10][H:20].O=[N+]([O-])c1ccccc1-c1nnn[n-:21]1 10=20;20,21=21",
"CCOC(=O)CCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)CCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCC[NH2+]CCC(=O)[O:21][H:20].OCC[N:10](CCc1nnn[n-]1)CCc1nnn[n-]1>>CCCCCCCC[NH2+]CCC(=O)[O-:21].OCC[N+:10](CCc1nnn[n-]1)(CCc1nnn[n-]1)[H:20] 10=20;20,21=21",
"COC(=O)C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COC(=O)C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CNc1cc[n+](C)c([O-])[n+:21]1[H:20].Nc1ccc2c(N)c3ccccc3[n:10]c2c1>>CNc1cc[n+](C)c([O-])[n:21]1.Nc1ccc2c(N)c3ccccc3[n+:10]([H:20])c2c1 10=20;20,21=21",
"Brc1cccc2ccc([O:21][H:20])cc12.CC[NH+](CC)CCNc1cc(C)[n:10]c(Nc2ccc(Cl)cc2)n1>>Brc1cccc2ccc([O-:21])cc12.CC[NH+](CC)CCNc1cc(C)[n+:10]([H:20])c(Nc2ccc(Cl)cc2)n1 10=20;20,21=21",
"CO/C([O-])=N/c1ncnc2nc[n-:10]c12.Cc1cccc([N:21](C=S)[H:20])c1>>CO/C([O-])=N/c1ncnc2nc[n:10]([H:20])c12.Cc1cccc([N-:21]C=S)c1 10=20;20,21=21",
"CC[NH+](CC)Cc1cccc(F)c1[O:21][H:20].CN1C(=O)[N-:10]C(=O)c2[nH]cnc21>>CC[NH+](CC)Cc1cccc(F)c1[O-:21].CN1C(=O)[N:10]([H:20])C(=O)c2[nH]cnc21 10=20;20,21=21",
"COCC[NH:10]c1ccc(OC)cc1.O=[N+]([O-])c1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1>>COCC[NH+:10](c1ccc(OC)cc1)[H:20].O=[N+]([O-])c1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"C=C(C)C(=O)NCC[N:10](CC)CC.C[N+:21]1([H:20])[C@@H]2CC[C@H]1C[C@@H](O)C2>>C=C(C)C(=O)NCC[N+:10](CC)(CC)[H:20].C[N:21]1[C@@H]2CC[C@H]1C[C@@H](O)C2 10=20;20,21=21",
"CN(c1ccccc1)C([O-])[OH+:21][H:20].NC(=O)CCC(C(=O)O)[NH-:10]>>CN(c1ccccc1)C([O-])[OH:21].NC(=O)CCC(C(=O)O)[NH:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])=C1.C[NH+](c1ccccc1)C([O-])[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)=C1.C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"Cc1n[nH]c2c(N)nc[n:10]c12.O=C(C(O)c1ccccc1)[O:21][H:20]>>Cc1n[nH]c2c(N)nc[n+:10]([H:20])c12.O=C(C(O)c1ccccc1)[O-:21] 10=20;20,21=21",
"O=C([O-])c1ncccc1[NH2:10].O=S(=O)([O-])c1cc([O:21][H:20])cc2[nH]ncc12>>O=C([O-])c1ncccc1[NH2+:10][H:20].O=S(=O)([O-])c1cc([O-:21])cc2[nH]ncc12 10=20;20,21=21",
"C1C[NH:10]CCO1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C1C[NH+:10]([H:20])CCO1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Oc1ccccc1CN1CCC[NH2+]CCC[NH:10]CCC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccccc1CN1CCC[NH2+]CCC[NH+:10]([H:20])CCC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
